US07741351B2
Intermediate 5: N-(3-bromophenyl)-N-methylmethanesulfonamide
A solution of N-(3-bromophenyl)methanesulfonamide (5.15 g, 20.6 mmol, Combi-Blocks) in dry dimethylformamide (100 ml) was treated with potassium carbonate (4.3 g, 31.2 mmol) at room temperature with stirring under argon. After stirring for 10 minutes methyl iodide (2.9 g, 20.6 mmol) was added dropwise over 5 minutes and stirring continued at room temperature for 1 h. The reaction mixture was partitioned between ethyl acetate (250 ml), and water (3×150 ml). The organic layer was dried over sodium sulphate and the solvent removed under reduced pressure to give the title compound as a brown oil (4.90 g, 90%); 1H-NMR (400 MHz, CDCl3): 2.86 (3H, s), 3.32 (3H, s), 7.26 (1H, m), 7.35 (1H, m), 7.43 (1H, m), 7.53 (1H, m).

reactant | N-(3-bromophenyl)methanesulfonamide | 20.6 mmol, 5.15 g | BrC=1C=C(C=CC1)NS(=O)(=O)C | C7H8BrNO2S
reactant | potassium carbonate | 31.2 mmol, 4.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 20.6 mmol, 2.9 g | CI | CH3I
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | N-(3-bromophenyl)-N-methylmethanesulfonamide | 4.90 g, 90% | BrC=1C=C(C=CC1)N(S(=O)(=O)C)C | C8H10BrNO2S
